US04772600
2-(4-Chlorophenyl)-N-methyl-N-propyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:2]
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 2.5 hours with a stream of nitrogen bubbling through it. A solution of methylpropylamine (3.81 g, 0.0522 mole) in tetrahydrofuran (4 ml) was added, and the reaction mixture was heated at 45° C. for 15 hours, then stirred at room temperature. The solvents were evaporated under reduced pressure, and the resulting oil was triturated in water (100 ml) which caused a solid to form. The solid was collected by filtration and washed with water, twice with a 5% potassium hydroxide solution, and twice again with water. The solid was dissolved in hot isopropyl alcohol, filtered, and cooled to room temperature. Addition of water to the cloud point caused crystals to form. The solid was collected by filtration, rinsed with water, and dried at high vacuum to give 3.60 g (60%) of title compound, mp 130°-133° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylpropylamine | 0.0522 mole, 3.81 g | CNCCC | C4H11N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-methyl-N-propyl-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 3.60 g, 60% | O.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)C | InChI=1S/C18H19ClN4O.H2O/c1-3-11-22(2)16(24)12-23-17(13-6-8-14(19)9-7-13)21-15-5-4-10-20-18(15)23;/h4-10H,3,11-12H2,1-2H3;1H2
